US06121285
Cis 4-(1-carboxycyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B)
Cis 4-(1-ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B; 1.79 g, 5.37 mmol) was dissolved in methanol (10 ml) to which was subsequently added dropwise a 1 N sodium hydroxide aqueous solution (10 ml). The reaction solution was stirred at 40° C. for 18 hours and then methanol was evaporated under reduced pressure. The thus obtained residue was mixed with water (50 ml) and washed with chloroform (100 ml). The thus separated aqueous layer was acidified by dropwise addition of 1 N hydrochloric acid and extracted with chloroform (100 ml×2). The organic layers were combined and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain the title compound quantitatively as a crude product.

reactant | Cis 4-(1-ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 5.37 mmol, 1.79 g | C(C)OC(=O)C1(CCC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C19H24FNO3
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | Cis 4-(1-carboxycyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | C(=O)(O)C1(CCC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C17H20FNO3
